* source FDA
X_U1         N14498 N14502 N14395 0 OUT_N OUT_P N14639 THS4520 
V_V1         N14395 0 5V
R_R1         IN_P N14498  1k TC=0,0 
R_R2         N14498 OUT_N  1k TC=0,0 
R_R3         IN_N N14502  1k TC=0,0 
R_R4         N14502 OUT_P  {Rx} TC=0,0 
V_V2         N14639 0 1.2V
V_V4         IN_P 0  AC 0
+SIN 1.2 0.5 1Meg 0 0 0
V_V5         IN_N 0 1.2V
.PARAM  rx=1k
